US06291465B1
To a solution of 950 mg (1.81 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(2′-methyl-4-nitro-biphenyl-2-yl)isobutyramide in 12 ml tetrahydrofuran and 3 ml water 608 mg (10.87 mmol) iron powder and 3 drops trifluoroacetic acid were added. After heating at 85° for 3 hrs., the reaction mixture was cooled to room temperature and evaporated. The residue was purified by chromatography (SiO2, hexane/ethyl acetate 1:4) to give 890 mg (99%) N-(4-amino-2′-methyl-biphenyl-2-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide as pale yellow crystals, MS (ISP):495.2(M+H)+.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(2′-methyl-4-nitro-biphenyl-2-yl)isobutyramide | 1.81 mmol, 950 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1)C)C)(C)C)(F)F | C26H22F6N2O3
reactant | water | 10.87 mmol, 3 ml, 608 mg | O | H2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
catalyst | trifluoroacetic acid | 3 drops | FC(C(=O)O)(F)F | C2HF3O2
product | N-(4-amino-2′-methyl-biphenyl-2-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 890 mg, 99% | NC1=CC(=C(C=C1)C1=C(C=CC=C1)C)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C26H24F6N2O
